US08168789B2
300 ml of toluene was added to a 600 ml water solution of 37.5 g of sodium hydroxide. Then 150 g of dicyclohexylamine salt of 6-fluoro-3-hydroxy-2-pyrazinecarbonitrile was added at 15 to 25° C. and the solution was stirred at the same temperature for 30 minutes. The water layer was separated and washed with toluene, and then 150 ml of water was added, followed by dropwise addition of 106 g of a 30% hydrogen peroxide solution at 15 to 30° C. and one-hour stirring at 20 to 30° C. Then 39 ml of hydrochloric acid was added, the seed crystals were added at 40 to 50° C., and 39 ml of hydrochloric acid was further added dropwise at the same temperature. The solution was cooled to 10° C. the precipitate was filtered and collected to give 65.6 g of 6-fluoro-3-hydroxy-2-pyrazinecarboxamide as a slightly yellowish white solid.

reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 37.5 g | [OH-].[Na+]
reactant | dicyclohexylamine | 150 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 6-fluoro-3-hydroxy-2-pyrazinecarbonitrile | FC1=CN=C(C(=N1)C#N)O | C5H2FN3O
solvent | water | 600 ml | O | H2O
product | 6-fluoro-3-hydroxy-2-pyrazinecarboxamide | 65.6 g | FC1=CN=C(C(=N1)C(=O)N)O | C5H4FN3O2
